US07985769B2
A suspension of magnesium sulfate (4.61 g, 38.32 mmol) in dichloromethane (37 ml) at 21° C., under N2, was treated with conc H2SO4 (510 μl, 9.58 mmol). After 15 min solid 3-Iodo-5-phenyl-thiophene-2-carboxylic acid (3.7 g, 9.58 mmol) was added followed by t-butanol (4.55 ml, 47.9 mmol) and the flask was stoppered and left over-night for 19.5 h. The reaction mixture was treated with saturated bicarbonate aqueous solution, and filtered. The solid was washed with CH2Cl2 and the filtrate dried and concentrated to an oil. The crude material was purified by flash chromatography using Hexane/CH2Cl2 (3:1) as eluent to give 1.63 g (44%) of 3-Iodo-5-phenyl-thiophene-2-carboxylic acid tert-butyl ester as a colorless solid. NMR 1H (CDCl3, 400 MHz) 7.61-7.59 (m, 2H); 7.43-7.35 (m, 3H), 7.25 (s, 1H), 1.60 (bs, 9H).

reactant | magnesium sulfate | 38.32 mmol, 4.61 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | H2SO4 | 9.58 mmol, 510 μl | OS(=O)(=O)O | H2O4S
reactant | 3-Iodo-5-phenyl-thiophene-2-carboxylic acid | 9.58 mmol, 3.7 g | IC1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C11H7IO2S
reactant | t-butanol | 47.9 mmol, 4.55 ml | C(C)(C)(C)O | C4H10O
reactant | bicarbonate | C([O-])(O)=O
solvent | dichloromethane | 37 ml | ClCCl | CH2Cl2
product | 3-Iodo-5-phenyl-thiophene-2-carboxylic acid tert-butyl ester | 1.63 g, 44% | C(C)(C)(C)OC(=O)C=1SC(=CC1I)C1=CC=CC=C1 | C15H15IO2S
